US05068334
4-Phenyl-7,8-dihydro-2,5(1H,6H)-quinolinedione
Prepared from 4-phenyl-5,6,7,8-tetrahydro-cumarin- 5-one (melting point: 167°-168° C., prepared from ethyl benzoylacetate and cyclohexan-1,3-dione) and methanolic ammonia in an autoclave over a period of one hour at 135° C.

reactant | 4-phenyl-5,6,7,8-tetrahydro-cumarin- 5-one | C1(=CC=CC=C1)C1=CC(OC=2CCCC(C12)=O)=O | C15H12O3
reactant | ammonia | N | H3N
product | 4-Phenyl-7,8-dihydro-2,5(1H,6H)-quinolinedione | C1(=CC=CC=C1)C1=CC(NC=2CCCC(C12)=O)=O | C15H13NO2
